US05252536
Preparation of N-(5-Amino-2-fluorophenyl)-1-cyclohexene-1,2-dicarboximide
Wet Raney Nickel (0.9 g) is added to a solution of N-(2-fluoro-5-nitrophenyl)-1-cyclohexene-1,2-dicarboximide (1.0 g, 3.4 mmol) in a 4:1 ethylene glycol dimethyl ether/ethanol solution. The reaction mixture is hydrogenated over 45 psi of hydrogen until the reaction mixture takes up 9 psi. The reaction mixture is filtered through diatomaceous earth and concentrated in vacuo to obtain a yellow residue. Chromatography of the residue gives the title product as a yellow-orange solid (0.84 g, mp 134°-136° C.) which is identified by 1H and 13C NMR spectral analyses.

reactant | N-(2-fluoro-5-nitrophenyl)-1-cyclohexene-1,2-dicarboximide | 3.4 mmol, 1.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N1C(=O)C2=C(CCCC2)C1=O | C14H11FN2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 0.9 g | [Ni] | Ni
solvent | ethylene glycol dimethyl ether ethanol | COCCOC.C(C)O
product | N-(5-Amino-2-fluorophenyl)-1-cyclohexene-1,2-dicarboximide | 0.84 g | NC=1C=CC(=C(C1)N1C(=O)C2=C(CCCC2)C1=O)F | C14H13FN2O2
